US09216999B2
rac-1-[(3R,4R)-1-(Isobutylsulfonyl)-4-methylpiperidin-3-yl]-7-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-h][1,6]naphthyridin-4(7H)-one
rac-1-[(3R,4R)-4-Methylpiperidin-3-yl]-7-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-h][1,6]naphthyridin-4(7H)-one (23 mg, 0.056 mmol) in dichloromethane (2 mL) was mixed with N,N-diisopropylethylamine (30 μL, 0.17 mmol) and 2-methylpropane-1-sulfonyl chloride (12 μL, 0.092 mmol) under cooling with ice and stirred at room temperature for 2 hours. After addition of water, the reaction mixture was extracted with ethyl acetate, and the organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate/methanol=1/1/0→0/10/1 (v/v/v)) to give the title compound as a pale pink solid (18.3 mg, yield 62%).

reactant | rac-1-[(3R,4R)-4-Methylpiperidin-3-yl]-7-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-h][1,6]naphthyridin-4(7H)-one | 0.056 mmol, 23 mg | C[C@H]1[C@H](CNCC1)N1C=CC(C2=CN=C3C(=C12)C=CN3COCC[Si](C)(C)C)=O | C22H32N4O2Si
reactant | N,N-diisopropylethylamine | 0.17 mmol, 30 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-methylpropane-1-sulfonyl chloride | 0.092 mmol, 12 μL | CC(CS(=O)(=O)Cl)C | C4H9ClO2S
reactant | water | O | H2O
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | rac-1-[(3R,4R)-1-(Isobutylsulfonyl)-4-methylpiperidin-3-yl]-7-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-h][1,6]naphthyridin-4(7H)-one | 18.3 mg, yield 62% | C(C(C)C)S(=O)(=O)N1C[C@@H]([C@@H](CC1)C)N1C=CC(C2=CN=C3C(=C12)C=CN3COCC[Si](C)(C)C)=O | C26H40N4O4SSi
